US07943622B2
Step 3. Synthesis of N-(2,3-dihydro-1H-inden-5-yl)-2-((pyridin-3-yloxy)methyl)piperazine-1-carboxamide dihydrochloride
4 M HCl in 1,4-dioxane (6 mL, 24 mmol) was added to a solution of tert-butyl 4-(2,3-dihydro-1H-inden-5-ylcarbamoyl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate TFA salt (62.6 mg, 0.110 mmol) in MeOH (1 mL). After 1 h, the reaction mixture was concentrated under reduced pressure and purified by HPLC (5 to 50% MeCN/0.1% TFA in H2O/0.1% TFA gradient). The fractions containing the desired product were concentrated under reduced pressure. The material was dissolved in MeOH (1 mL) and treated with 4 M HCl in 1,4-dioxane (6 mL). The mixture was concentrated under reduced pressure to give 30.7 mg (65%) of the title compound. LC-MS: RT=4.79 min, [M+H]+=353.2.

reactant | HCl | 4 M | Cl | ClH
reactant | 1,4-dioxane | 24 mmol, 6 mL | O1CCOCC1 | C4H8O2
reactant | tert-butyl 4-(2,3-dihydro-1H-inden-5-ylcarbamoyl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate TFA salt | 0.110 mmol, 62.6 mg | OC(=O)C(F)(F)F.C1CCC2=CC(=CC=C12)NC(=O)N1C(CN(CC1)C(=O)OC(C)(C)C)COC=1C=NC=CC1
solvent | MeOH | 1 mL | CO | CH4O
product | N-(2,3-dihydro-1H-inden-5-yl)-2-((pyridin-3-yloxy)methyl)piperazine-1-carboxamide dihydrochloride | 30.7 mg, 65% | Cl.Cl.C1CCC2=CC(=CC=C12)NC(=O)N1C(CNCC1)COC=1C=NC=CC1 | InChI=1S/C20H24N4O2.2ClH/c25-20(23-17-7-6-15-3-1-4-16(15)11-17)24-10-9-22-12-18(24)14-26-19-5-2-8-21-13-19;;/h2,5-8,11,13,18,22H,1,3-4,9-10,12,14H2,(H,23,25);2*1H
